Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers and chills
 
Major Surgical or Invasive Procedure:
___ -- stent exchange

 
History of Present Illness:
Ms. ___ is a ___ female with the past
medical history notable for history of bladder cancer status 
post
robotic TAH-BSO, lap radical cystectomy with ileal loop 
diversion
and anterior vaginectomy in ___ complicated by abdominal
fluid requiring placement of drainage catheters, further
complicated by a severe bilateral hydronephrosis requiring
bilateral urostomy tube placement and then ultimately ureteral
stent placements with improvement who presented to the hospital
for routine stent exchange and cystoscopy.  The patient 
underwent
an uncomplicated procedure but then postoperatively in the PACU
she developed a fever to 102.4 and was tachycardic 105 and as
such was felt to need admission for treatment of sepsis.  At 
that
time she was given ampicillin and gentamicin given her history 
of
drug resistant organisms.  She reported at that time she was
feeling feverish and chills with nausea and vomiting x1.  She
received IV fluids and her IV antibiotics and her symptoms
improved.  She was admitted to the medical service for further
evaluation and management

On the floor the patient reports that she continues to have
persistent chills.  She feels slightly nauseous.  She denies any
abdominal pain.  She otherwise reports that she is feeling 
better
than she did immediately postprocedural but is still
significantly off of her baseline.  She reports that she has a
history of urinary tract infections and was most recently on
ciprofloxacin and ___.  She reports that she was on
this medication for 7-day course.  No ___ acute complaints.

 
Past Medical History:
- Hypertension  
 - s/p lap chole  
 - s/p left knee replacement  
 - s/p laminectomy of L5-S1 at age ___  
 - Bladder Cancer high grade TCC, T1 diagnosed in ___, then 
___ pelvic MRI w/invasion into bladder wall, perivesical 
soft tissue and anterior vaginal wall c/w T4 staging  
 - s/p hysterectomy and bilateral oophorectomy for large uterus 
w/fibroid, s/p laparascopic b/l pelvic lymph node resection, s/p 

radical cystectomy and anterior vaginectomy with vaginal 
reconstruction with ileal conduit creation ___, course 
complicated by bacteremia and development of intra-abdominal 
fluid collection, no s/p drain placement by ___ ___  
 - h/o LLE DVT and PE no longer on anticoagulation. 
 
Social History:
___
Family History:
Negative for bladder CA.

 
Physical Exam:
ADMISSION EXAM:

VITALS: ___ 2227 Temp: 99.3 PO BP: 119/54 HR: 80 RR: 16 O2
sat: 98% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Alert and in no apparent distress, facial twitches
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation, foley
catheter in place
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:

AVSS, ambulating comfortably at baseline. Urostomy bag in place 
with no surround erythema or pain.
 
Pertinent Results:
LABORATORY RESULTS:

___ 05:30AM BLOOD WBC-16.5* RBC-3.23* Hgb-9.8* Hct-31.8* 
MCV-99* MCH-30.3 MCHC-30.8* RDW-14.5 RDWSD-52.3* Plt ___
___ 06:09AM BLOOD WBC-14.1* RBC-3.39* Hgb-10.2* Hct-33.2* 
MCV-98 MCH-30.1 MCHC-30.7* RDW-14.6 RDWSD-52.7* Plt ___
___ 06:10AM BLOOD WBC-10.0 RBC-3.55* Hgb-10.5* Hct-33.6* 
MCV-95 MCH-29.6 MCHC-31.3* RDW-14.1 RDWSD-49.9* Plt ___
___ 05:30AM BLOOD Glucose-115* UreaN-34* Creat-1.6* Na-142 
K-4.2 Cl-106 HCO3-22 AnGap-14
___ 06:10AM BLOOD Glucose-99 UreaN-29* Creat-1.3* Na-141 
K-3.8 Cl-104 HCO3-23 AnGap-14
___ 05:30AM BLOOD Calcium-8.1* Phos-3.4 Mg-1.8

MICROBIOLOGY:

___ 3:00 pm URINE     Site: CYSTOSCOPY      RIGHT KIDNEY 
WASH. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROCOCCUS FAECIUM.    >10,000 CFU/ML. 
         ___ (___) REQUESTS SUSCEPTIBILITY TESTING 
___. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    1,000 - 10,000 
CFU/ML. 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    1,000 - 10,000 
CFU/ML. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS FAECIUM
                             |   
AMPICILLIN------------     8 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------     2 S

Blood cultures NGTD
 
Brief Hospital Course:
Ms. ___ was admitted with sepsis from a urinary tract 
infection after her stent exchange. She was placed empirically 
on vancomycin and cefepime (narrowed to vanc/ceftriaxone on 
HD#1), because of her history of resistant organisms. She 
rapidly improved. Her urine grew E. faecium, sensitive to 
ampicillin. Therefore, a PICC line was placed, and she will 
complete two weeks total of ampicillin for a complicated urinary 
tract infection (additional day days). She will follow up with 
Dr. ___ as an outpatient. She will stop her prophylactic TMP 
while on ampicillin, but then resume after finishing her course.
- ampicillin 500 mg TID x 9 additional days
- restart TMP 100 mg daily for ppx after antibiotic course
- follow up with Dr. ___

___ problems addressed this hospitalization:

1. ___. Ms. ___ initially had an ___, likely prerenal from 
her sepsis. She received IV fluids and antibiotics as above, and 
her creatinine down-trended. Losartan was initially held, but 
restarted on discharge.

2. Hyperlipidemia: continued atorvastatin 10 mg daily

3. Hypothyroidism: continue levothyroxine 175 mcg daily

> 30 minutes spent on discharge activities.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Atorvastatin 10 mg PO QPM 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Levothyroxine Sodium 175 mcg PO DAILY 
6. LORazepam 0.5 mg PO Q12H:PRN anxiety 
7. Losartan Potassium 50 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
10. Trimethoprim 100 mg PO Q24H 

 
Discharge Medications:
1.  Ampicillin 500 mg IV Q8H 
RX *ampicillin sodium 500 mg 500 mg IV Every eight hours Disp 
#*15 Vial Refills:*0
RX *ampicillin sodium 500 mg 500 mg IV Every eight hours Disp 
#*27 Vial Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
3.  Atorvastatin 10 mg PO QPM  
4.  Cyanocobalamin 1000 mcg PO DAILY  
5.  Docusate Sodium 100 mg PO BID  
6.  Levothyroxine Sodium 175 mcg PO DAILY  
7.  LORazepam 0.5 mg PO Q12H:PRN anxiety  
8.  Losartan Potassium 50 mg PO BID  
9.  Multivitamins 1 TAB PO DAILY  
10.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
11. HELD- Trimethoprim 100 mg PO Q24H  This medication was held. 
Do not restart Trimethoprim until after you finish your 
ampicillin.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Complicated E. faecium UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital after you developed fevers and 
chills after you developed fevers and chills from your stent 
exchange. Your urine grew the enterococcus species -- the source 
of your infection. Because it was enterococcus, a PICC line was 
placed and you will finish a total 14-day course of IV 
ampicillin.

You also had kidney injury, likely from infection, that resolved 
with antibiotics and fluids. It was a pleasure taking care of 
you!
 
Followup Instructions:
___